US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-(3-phenoxy-thiophen-2-ylmethylene)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.25 g, 0.98 mmol) was reacted with 3-phenoxythiophene-2-carboxaldehyde (0.300 g, 1.47 mmol) in 4 mL of 4% KOH in EtOH for 3 hours at room temperature to afford 0.331 g (76%) of the title compound as an off-white solid, mp 135-137° C.: APCI-MS m/e 443.5 (M+ +1).

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.98 mmol, 0.25 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 3-phenoxythiophene-2-carboxaldehyde | 1.47 mmol, 0.300 g | O(C1=CC=CC=C1)C1=C(SC=C1)C=O | C11H8O2S
solvent | KOH | 4 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-(3-phenoxy-thiophen-2-ylmethylene)-3,4-dihydro-2H-naphthalen-1-one | 0.331 g, 76% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC=1SC=CC1OC1=CC=CC=C1 | C26H22N2O3S
